2181-10-27 08:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PRESEP CATHETER - START [**2181-10-26**] 09:58 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2181-10-27**] 01:00 AM
   Infusions:
   Norepinephrine - 0.13 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2181-10-27**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-27**] 08:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98
   HR: 86 (84 - 93) bpm
   BP: 84/62(67) {82/62(65) - 103/69(75)} mmHg
   RR: 24 (19 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 13 (10 - 15)mmHg
   Total In:
                                                                    459 mL
                                                                  2,014 mL
   PO:
                                                                    150 mL
                                                                    350 mL
   TF:
   IVF:
                                                                    309 mL
                                                                  1,664 mL
   Blood products:
   Total out:
                                                                    390 mL
                                                                  2,070 mL
   Urine:
                                                                    390 mL
                                                                  2,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     69 mL
                                                                    -56 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///19/
   Physical Examination
   GEN: NAD, denies SOB, endorses pain right chest, abdomen, left leg
   pain.
   CV: RRR, no m/r/g
   PULM: CTAB
   ABD: Soft, mild TTP diffuse, ND
   EXTR: No edema.
   Labs / Radiology
   246 K/uL
   11.1 g/dL
   137 mg/dL
   0.8 mg/dL
   19 mEq/L
   3.3 mEq/L
   10 mg/dL
   110 mEq/L
   140 mEq/L
   33.7 %
   16.1 K/uL
        [image002.jpg]
                             [**2181-10-27**]  02:19 AM
   WBC
   16.1
   Hct
   33.7
   Plt
   246
   Cr
   0.8
   Glucose
   137
   Other labs: PT / PTT / INR:16.5/35.9/1.5, ALT / AST:[**11-8**], Alk Phos / T
   Bili:71/0.3, Albumin:3.3 g/dL, LDH:191 IU/L, Ca++:7.9 mg/dL, Mg++:1.5
   mg/dL, PO4:2.2 mg/dL
   Micro:
   Negative DFA for flu
   Negative urine for legionella
   Assessment and Plan
 PNEUMONIA, OTHER
   58F with HTN, hypothyroidism, and likely COPD admitted with fever,
   hypotension, and infiltrates on CXR concerning for PNA and sepsis. UA
   is also concerning for a UTI. Stablized on pressors with improved
   oxygenation.
   .
   # Sepsis/SIRS: Likely source is pneumonia, but urosepsis possible.
   - BCx pending
   - UCx pending
   - Continue norepinepherine to goal MAP > 65 and CVP > 10
   .
   # Hypotension: Likely relate to sepsis.
   - [**Last Name (un) 1398**] stim test pending
 follow-up
   - Continue norepinepherine as above
   - Will add vasopressin for additional BP control as needed
   - Check 3PM Hct
   - Give 1L NS over 120 mins bolus
   .
   # Pneumonia: DDx includes typical CAP, atypical PNA including
   mycoplasma and Legionella, and influenza. Legionella and flu negative
   thus far.
   - D/c osteltamivir 75mg PO BID
   - Continue ceftriaxone 1g IV daily for CAP and UTI
   - Continue azithromycin 500mg PO x 1 followed by 250mg PO daily x 4
   additional days for atypical coverage
   - Concern for malignancy with smoking history and cxr findings; plan
   for contrast CT of chest when stable to r/o malignancy
   .
   # UTI: UA consistent with UTI with elevated WBC, LE, and nitrates.
   - Continue ceftriaxone 1g IV daily. Plan for a total of 14 days of
   treatment for complicated UTI if this is determined to be the cause of
   her sepsis.
   .
   # Hypertension: On amlodipine 10mg daily and valsartan 160mg daily at
   home.
   - Hold antihypertensives in the context of sepsis
   - Unclear why this patient is not on ASA PPx
   .
   # Hypothyroidism: Medically managed.
   - Continue Levothyroxine [Levoxyl] 75 mcg daily
   - TSH and fT4 pending
 f/u
   .
   # COPD: Exam finding of clubbing, hyperinflated chest, and prolonged
   expiration consistent with chronic SOB and obstruction. History of
   recurrent URIs also consistent with chronic bronchitis.
   - Recommend outpatient PFTs
   .
   # FEN: IVF to maintain MAPs, replete electrolytes on scales, regular
   diet (NPO if increased respiratory distress and contemplating
   intubation).
   # Prophylaxis: Subcutaneous heparin, morphine for pain, bowel regimen.
   # Access: R IJ, 2 peripherals
   # Code:  Full
   # Communication: Patient
   # Disposition: pending clinical improvement
   ICU Care
   Lines:
   Presep Catheter - [**2181-10-26**] 09:58 PM
   20 Gauge - [**2181-10-26**] 09:59 PM
   18 Gauge - [**2181-10-26**] 09:59 PM

2181-10-28 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: PNA
   24 Hour Events:
   - increased RR and SpO2 to 88%; given lasix with good effect and
   morphine
   - RR decreased, comfort increased, considered possibility of
   intubation, but turned around respiratory status so able to hold off so
   far
   - plan for CT chest with contrast to elucidate question of malignancy,
   once stable
   - thyroid studies nl.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2181-10-28**] 12:10 AM
   Infusions:
   Norepinephrine - 0.14 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2181-10-27**] 03:23 PM
   Heparin Sodium (Prophylaxis) - [**2181-10-28**] 12:10 AM
   Morphine Sulfate - [**2181-10-28**] 01:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-28**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 35.6
C (96.1
   HR: 49 (49 - 96) bpm
   BP: 107/73(82) {73/48(58) - 112/73(82)} mmHg
   RR: 20 (18 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
    CVP: 5 (2 - 12)mmHg
   Total In:
                                                                  3,164 mL
                                                                    264 mL
   PO:
                                                                  1,070 mL
   TF:
   IVF:
                                                                  2,094 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                  4,360 mL
                                                                    410 mL
   Urine:
                                                                  4,360 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,196 mL
                                                                   -146 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: 7.47/25/68/24/-2
   PaO2 / FiO2: 85
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   238 K/uL
   11.2 g/dL
   191 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.2 mEq/L
   11 mg/dL
   102 mEq/L
   138 mEq/L
   34.2 %
   11.6 K/uL
        [image002.jpg]
                             [**2181-10-27**]  02:19 AM
                             [**2181-10-27**]  03:39 PM
                             [**2181-10-27**]  04:16 PM
                             [**2181-10-27**]  04:28 PM
                             [**2181-10-28**]  04:04 AM
   WBC
   16.1
   11.6
   Hct
   33.7
   35.2
   34.2
   Plt
   246
   238
   Cr
   0.8
   0.7
   TCO2
   19
   Glucose
   137
   132
   191
   Other labs: PT / PTT / INR:16.5/35.9/1.5, ALT / AST:[**11-8**], Alk Phos / T
   Bili:71/0.3, Lactic Acid:1.0 mmol/L, Albumin:3.3 g/dL, LDH:191 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: [**Last Name (un) 1398**] stim test
   [**2181-10-27**] 03:27AM    23.8*1
   [**2181-10-27**] 03:05AM    21.4*1
   [**2181-10-27**] 02:19AM    14.61
   Imaging: [**2181-9-27**]
   REASON FOR EXAMINATION: Evaluation of pulmonary edema.
   Portable AP chest radiograph was compared to prior study obtained the
   same day
   earlier at 05:52 a.m.
   There is no significant change in the widespread parenchymal opacities
   which potentially might represent a combination of pulmonary edema with
   infection.
   Right upper lobe consolidation is unchanged. Overall, the lung volumes
   are lower than on the prior study.
   Microbiology: Cultures NTD
   Assessment and Plan
   58F with HTN, hypothyroidism, and likely COPD admitted with fever,
   hypotension, and infiltrates on CXR concerning for PNA and sepsis. UA
   is also concerning for a UTI. Stablized on pressors with improved
   oxygenation.
   .
   # Sepsis/SIRS: Likely source is pneumonia, but urosepsis possible.
   - BCx pending
   - UCx pending
   - Continue norepinepherine to goal MAP > 65 and CVP > 10
   .
   # Hypotension: Likely relate to sepsis.  Did not respond appropriately
   to [**Last Name (un) **] stim
   - Start stress dose steroids : hydrocortisone 50mg q6 and
   fludricortisone 0.05mg daily
   - Continue norepinepherine as above
   - Will add vasopressin for additional BP control as needed
   .
   # Pneumonia: DDx includes typical CAP, atypical PNA including
   mycoplasma and Legionella, and influenza. Legionella and flu negative
   thus far.
   - D/c osteltamivir 75mg PO BID
   - Continue ceftriaxone 1g IV daily for CAP and UTI
   - Continue azithromycin 500mg PO x 1 followed by 250mg PO daily x 4
   additional days for atypical coverage
   - Concern for malignancy with smoking history and cxr findings; plan
   for contrast CT of chest when stable to r/o malignancy
   .
   # UTI: UA consistent with UTI with elevated WBC, LE, and nitrates.
   - Continue ceftriaxone 1g IV daily. Plan for a total of 14 days of
   treatment for complicated UTI if this is determined to be the cause of
   her sepsis.
   .
   # Hypertension: On amlodipine 10mg daily and valsartan 160mg daily at
   home.
   - Hold antihypertensives in the context of sepsis
   - Unclear why this patient is not on ASA PPx
   .
   # Hypothyroidism: Medically managed.  -TSH and fT4 pending wnl
   - Continue Levothyroxine [Levoxyl] 75 mcg daily
   .
   # COPD: Exam finding of clubbing, hyperinflated chest, and prolonged
   expiration consistent with chronic SOB and obstruction. History of
   recurrent URIs also consistent with chronic bronchitis.
   - Recommend outpatient PFTs
   .
   # FEN: IVF to maintain MAPs, replete electrolytes on scales, regular
   diet (NPO if increased respiratory distress and contemplating
   intubation).
   # Prophylaxis: Subcutaneous heparin, morphine for pain, bowel regimen.
   # Access: R IJ, 2 peripherals
   # Code:  Full
   # Communication: Patient
   # Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2181-10-26**] 09:58 PM
   20 Gauge - [**2181-10-26**] 09:59 PM
   18 Gauge - [**2181-10-26**] 09:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-10-28 12:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Diuresed for probable CHF
   Weaned down on levophed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2181-10-28**] 12:10 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2181-10-27**] 03:23 PM
   Famotidine (Pepcid) - [**2181-10-28**] 08:36 AM
   Heparin Sodium (Prophylaxis) - [**2181-10-28**] 08:36 AM
   Morphine Sulfate - [**2181-10-28**] 11:05 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-28**] 12:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.1
C (97
   HR: 65 (49 - 81) bpm
   BP: 112/77(86) {86/48(60) - 118/77(86)} mmHg
   RR: 17 (17 - 28) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 12 (2 - 12)mmHg
   Total In:
                                                                  3,164 mL
                                                                    486 mL
   PO:
                                                                  1,070 mL
   TF:
   IVF:
                                                                  2,094 mL
                                                                    486 mL
   Blood products:
   Total out:
                                                                  4,360 mL
                                                                    495 mL
   Urine:
                                                                  4,360 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,196 mL
                                                                     -9 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: 7.47/25/68/24/-2
   PaO2 / FiO2: 136
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : both bases)
   Abdominal: Soft, Non-tender, Tender:
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, erythema at left hip
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.2 g/dL
   238 K/uL
   191 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.2 mEq/L
   11 mg/dL
   102 mEq/L
   138 mEq/L
   34.2 %
   11.6 K/uL
        [image002.jpg]
                             [**2181-10-27**]  02:19 AM
                             [**2181-10-27**]  03:39 PM
                             [**2181-10-27**]  04:16 PM
                             [**2181-10-27**]  04:28 PM
                             [**2181-10-28**]  04:04 AM
   WBC
   16.1
   11.6
   Hct
   33.7
   35.2
   34.2
   Plt
   246
   238
   Cr
   0.8
   0.7
   TCO2
   19
   Glucose
   137
   132
   191
   Other labs: PT / PTT / INR:16.5/35.9/1.5, ALT / AST:[**11-8**], Alk Phos / T
   Bili:71/0.3, Lactic Acid:1.0 mmol/L, Albumin:3.3 g/dL, LDH:191 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: [**Last Name (un) 1398**] stim - 14.6 to 21.4
   Imaging: CXRs reviewed
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PNEUMONIA, OTHER
   58 y/o, female hx of HTN, DM, prob COPD who presented with fever,
   malaise, and right pleuritic chest pain, found to have RLL PNA +
   possible UTI. In septic shock, on levophed. Started on antibiotics for
   CAP/UTI.
   Acute respiratory failure - improving, pneumonia, high O2 requirements
   still. Pneumonia ? post-[**Last Name (un) **], less likely pulm hemorrhage or PE.
   Hemoptysis - some bloody sputum but no frank hemoptysis since
   yesterday, will get CT chest if tolerates lying flat, may need bronch
   eventually.
   Septic shock - due to pneumonia, improving wbc, afebrile, c/w
   ceftriax/azithro. Wean pressors
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2181-10-26**] 09:58 PM
   20 Gauge - [**2181-10-26**] 09:59 PM
   18 Gauge - [**2181-10-26**] 09:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU, Total time spent: 30 minutes
   Patient is critically ill

2181-10-29 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: sepsis, pneumonia
   24 Hour Events:
   - Patient anxious and was given 0.5mg ativan
   - follow tender, erythematous area on L hip
   - plan for CT chest with contrast to elucidate question of malignancy,
   once stable
   - thyroid studies nl.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2181-10-29**] 12:10 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2181-10-28**] 08:36 AM
   Heparin Sodium (Prophylaxis) - [**2181-10-28**] 08:36 AM
   Morphine Sulfate - [**2181-10-28**] 05:56 PM
   Lorazepam (Ativan) - [**2181-10-28**] 09:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-29**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.6
C (96
   HR: 54 (53 - 93) bpm
   BP: 88/50(60) {76/50(59) - 118/85(88)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 91%
   Heart rhythm: SB (Sinus Bradycardia)
    CVP: 0 (0 - 12)mmHg
   Total In:
                                                                  1,117 mL
                                                                    123 mL
   PO:
                                                                    480 mL
   TF:
   IVF:
                                                                    622 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    280 mL
   Urine:
                                                                  1,340 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -223 mL
                                                                   -157 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   242 K/uL
   10.8 g/dL
   112 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.2 mEq/L
   19 mg/dL
   102 mEq/L
   138 mEq/L
   33.2 %
   6.7 K/uL
        [image002.jpg]
                             [**2181-10-27**]  02:19 AM
                             [**2181-10-27**]  03:39 PM
                             [**2181-10-27**]  04:16 PM
                             [**2181-10-27**]  04:28 PM
                             [**2181-10-28**]  04:04 AM
                             [**2181-10-29**]  03:53 AM
   WBC
   16.1
   11.6
   6.7
   Hct
   33.7
   35.2
   34.2
   33.2
   Plt
   [**Telephone/Fax (3) 9721**]
   Cr
   0.8
   0.7
   0.7
   TCO2
   19
   Glucose
   137
   132
   191
   112
   Other labs: PT / PTT / INR:16.5/35.9/1.5, ALT / AST:[**11-8**], Alk Phos / T
   Bili:71/0.3, Lactic Acid:1.0 mmol/L, Albumin:3.3 g/dL, LDH:191 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Imaging: [**10-28**] CXR done
   [**10-29**] CXR There is no significant change in the widespread parenchymal
   opacities which potentially might represent a combination of pulmonary
   edema with infection.  Right upper lobe consolidation is unchanged.
   Overall, the lung volumes are
   lower than on the prior study.
   Microbiology: [**10-27**] Legionella neg
   [**10-26**] B cxrs pending
   [**10-26**] influenza a& b DFA neg
   [**10-26**] U cxr c/w contamination
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PNEUMONIA, OTHER
   58F with HTN, hypothyroidism, and likely COPD admitted with fever,
   hypotension, and infiltrates on CXR concerning for PNA and sepsis. UA
   is also concerning for a UTI. Stablized on pressors with improved
   oxygenation.
   .
   # Sepsis/SIRS: Likely source is pneumonia, but urosepsis possible.
   - f/u pending cultures
   - ceftriaxone and azithromycin for CAP
   - Try to wean norepinepherine
   .
   # Hypotension: Likely relate to sepsis.  Did not respond appropriately
   to [**Last Name (un) **] stim
   - Stress dose steroids : hydrocortisone 50mg q6 and fludricortisone
   0.05mg daily
   - Wean norepinepherine
   .
   # Pneumonia: DDx includes typical CAP, atypical PNA including
   mycoplasma and Legionella, and influenza. Legionella and flu negative
   thus far.
   - D/c osteltamivir 75mg PO BID
   - Continue ceftriaxone 1g IV daily for CAP and UTI
   - Continue azithromycin 500mg PO x 1 followed by 250mg PO daily x 4
   additional days for atypical coverage
   - Concern for malignancy with smoking history and cxr findings; plan
   for contrast CT of chest when stable to r/o malignancy
   .
   # UTI: UA consistent with UTI with elevated WBC, LE, and nitrates.
   - Continue ceftriaxone 1g IV daily. Plan for a total of 14 days of
   treatment for complicated UTI if this is determined to be the cause of
   her sepsis.
   .
   # Hypertension: On amlodipine 10mg daily and valsartan 160mg daily at
   home.
   - Hold antihypertensives in the context of sepsis
   - Unclear why this patient is not on ASA PPx
   .
   # Hypothyroidism: Medically managed.  -TSH and fT4 wnl
   - Continue Levothyroxine [Levoxyl] 75 mcg daily
   .
   # COPD: Exam finding of clubbing, hyperinflated chest, and prolonged
   expiration consistent with chronic SOB and obstruction. History of
   recurrent URIs also consistent with chronic bronchitis.
   - Recommend outpatient PFTs
   .
   #Sore area on L hip: Pinpoint tenderness over small, erythematous
   area.
   - Continue to monitor for fluctuance, etc.
   .
   # FEN: IVF to maintain MAPs, replete electrolytes on scales, regular
   diet (NPO if increased respiratory distress and contemplating
   intubation).
   # Prophylaxis: Subcutaneous heparin, morphine for pain, bowel regimen.
   # Access: R IJ, 2 peripherals
   # Code:  Full
   # Communication: Patient
   # Disposition: pending clinical improvement

2181-10-29 09:51:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2181-10-29**] 12:10 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2181-10-28**] 05:56 PM
   Lorazepam (Ativan) - [**2181-10-28**] 09:35 PM
   Other medications:
   per ICU team
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-10-29**] 09:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.7
C (96.2
   HR: 60 (50 - 93) bpm
   BP: 100/68(75) {76/49(58) - 118/85(88)} mmHg
   RR: 22 (15 - 27) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 0 (0 - 1)mmHg
   Total In:
                                                                  1,117 mL
                                                                    147 mL
   PO:
                                                                    480 mL
   TF:
   IVF:
                                                                    622 mL
                                                                    147 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                    280 mL
   Urine:
                                                                  1,340 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -223 mL
                                                                   -134 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilateral bases, Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   10.8 g/dL
   242 K/uL
   112 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.2 mEq/L
   19 mg/dL
   102 mEq/L
   138 mEq/L
   33.2 %
   6.7 K/uL
        [image002.jpg]
                             [**2181-10-27**]  02:19 AM
                             [**2181-10-27**]  03:39 PM
                             [**2181-10-27**]  04:16 PM
                             [**2181-10-27**]  04:28 PM
                             [**2181-10-28**]  04:04 AM
                             [**2181-10-29**]  03:53 AM
   WBC
   16.1
   11.6
   6.7
   Hct
   33.7
   35.2
   34.2
   33.2
   Plt
   [**Telephone/Fax (3) 9721**]
   Cr
   0.8
   0.7
   0.7
   TCO2
   19
   Glucose
   137
   132
   191
   112
   Other labs: PT / PTT / INR:16.5/35.9/1.5, ALT / AST:[**11-8**], Alk Phos / T
   Bili:71/0.3, Lactic Acid:1.0 mmol/L, Albumin:3.3 g/dL, LDH:191 IU/L,
   Ca++:9.0 mg/dL, Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 PNEUMONIA, OTHER
   58 y/o, female hx of HTN, DM, prob COPD who presented with fever,
   malaise, and right pleuritic chest pain, found to have RLL PNA +
   possible UTI. In septic shock, on levophed. Started on antibiotics for
   CAP/UTI.
   Acute respiratory failure - Much improved
   Hemoptysis - some bloody sputum but no frank hemoptysis since
   yesterday, will get CT chest if tolerates lying flat, may need bronch
   eventually.
   Septic shock - due to pneumonia, improving wbc, afebrile, c/w
   ceftriax/azithro. Wean pressors
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2181-10-26**] 09:58 PM
   20 Gauge - [**2181-10-26**] 09:59 PM
   18 Gauge - [**2181-10-26**] 09:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: